US09302996B2
By using 1-(trifluoromethyl)-1-cyclopropanecarboxylic acid (300 mg), and methyl 3-(4-{5-[amino(imino)methyl]pyridin-2-yl}phenoxy)-2,2-dimethylpropanoate acetate (453 mg), the procedure was carried out in the same manner as in Example 2-1) to obtain methyl 2,2-dimethyl-3-[4-(5-{5-[1-(trifluoromethyl)cyclopropyl]-1H-imidazol-2-yl}pyridin-2-yl)phenoxy)propanoate (439 mg).

reactant | 1-(trifluoromethyl)-1-cyclopropanecarboxylic acid | 300 mg | FC(C1(CC1)C(=O)O)(F)F | C5H5F3O2
reactant | methyl 3-(4-{5-[amino(imino)methyl]pyridin-2-yl}phenoxy)-2,2-dimethylpropanoate acetate | 453 mg | C(C)(=O)O.NC(C=1C=CC(=NC1)C1=CC=C(OCC(C(=O)OC)(C)C)C=C1)=N
product | methyl 2,2-dimethyl-3-[4-(5-{5-[1-(trifluoromethyl)cyclopropyl]-1H-imidazol-2-yl}pyridin-2-yl)phenoxy)propanoate | 439 mg | CC(C(=O)OC)(COC1=CC=C(C=C1)C1=NC=C(C=C1)C=1NC(=CN1)C1(CC1)C(F)(F)F)C | C24H24F3N3O3
